US09102591B2
2-chloro-3-fluoro-N-((4-(2-(trifluoromethyl)pyrimidin-5-yl)tetrahydro-2H-pyran-4-yl)methyl)benzamide
From 2-chloro-3-fluorobenzoic acid and (4-(2-(trifluoromethyl)pyrimidin-5-yl)tetrahydro-2H-pyran-4-yl)methanamine. LCMS (MH+): m/z=418.1, tR (minutes, Method F)=2.24

reactant | 2-chloro-3-fluorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1F | C7H4ClFO2
reactant | (4-(2-(trifluoromethyl)pyrimidin-5-yl)tetrahydro-2H-pyran-4-yl)methanamine | FC(C1=NC=C(C=N1)C1(CCOCC1)CN)(F)F | C11H14F3N3O
product | 2-chloro-3-fluoro-N-((4-(2-(trifluoromethyl)pyrimidin-5-yl)tetrahydro-2H-pyran-4-yl)methyl)benzamide | ClC1=C(C(=O)NCC2(CCOCC2)C=2C=NC(=NC2)C(F)(F)F)C=CC=C1F | C18H16ClF4N3O2
